US08198296B2
To a solution of methyl 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]-oct-6-ene-7-carboxylate (0.350 g, 1.31 mmol) in THF-methanol (6.0 mL, 1:1) was added a solution of lithium hydroxide (0.100 g in 1 mL of water, 3.94 mmol), and the reaction was stirred at ambient temperature for 3 h. The solvent was evaporated, the residue was acidified to pH 4 with 1 M aqueous hydrochloric acid, and extracted with ethyl acetate (50 mL). The organic layer was washed with water (50 mL) and brine (50 mL), dried (anhydrous sodium sulfate), and concentrated to obtain 0.31 g (92% yield) of 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]-oct-6-ene-7-carboxylic acid, as a white solid (1H NMR (CDCl3, 300 MHz): δ 6.76 (bs, 1H), 3.76-3.62 (m, 1H), 3.58-3.42 (m, 2H), 3.11-2.94 (m, 2H), 2.84-2.67 (m, 1H), 2.46-2.23 (m, 1H), 1.42 (s, 9H). MS (m/z): 254 (M+1), 198 (M+1-56)).

reactant | methyl 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]-oct-6-ene-7-carboxylate | 1.31 mmol, 0.350 g | C(C)(C)(C)OC(=O)N1CC2CC(=CC2C1)C(=O)OC | C14H21NO4
reactant | lithium hydroxide | 3.94 mmol, 1 mL, 0.100 g | [OH-].[Li+]
solvent | THF methanol | 6.0 mL | C1CCOC1.CO
product | 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]-oct-6-ene-7-carboxylic acid | 0.31 g, 92% yield | C(C)(C)(C)OC(=O)N1CC2CC(=CC2C1)C(=O)O | C13H19NO4
